US06346527B1
28% Sodium methoxide in methanol (1.2ml) was added to a solution of methyl 2,3-dihydro-9-chloromethyl-1-benzoxepin-4-carboxylate (0.8 g) in methanol (8 ml) under ice-cooling and the mixture was stirred at the same temperature for 2 hours. The solvent was removed by concentration and to the residue was added a mixture of ethyl acetate and water. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo to give methyl 2,3-dihydro-9-methoxymethyl-1-benzoxepin-4-carboxylate (0.48 g).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | methyl 2,3-dihydro-9-chloromethyl-1-benzoxepin-4-carboxylate | 0.8 g | ClCC1=CC=CC=2C=C(CCOC21)C(=O)OC | C13H13ClO3
solvent | methanol | 1.2ml | CO | CH4O
solvent | methanol | 8 ml | CO | CH4O
product | methyl 2,3-dihydro-9-methoxymethyl-1-benzoxepin-4-carboxylate | 0.48 g | COCC1=CC=CC=2C=C(CCOC21)C(=O)OC | C14H16O4
